US08106071B2
Step 1: Synthesis of N,N′-bis-(2,4-dichloro-phenyl)-malonamide (Compound 1 in Scheme)
A mixture of diethyl malonate (24 g, 0.15 mol) and 2,4-dichloro aniline (60.8 g, 2.5 eq) was heated at 200° C. upon passing nitrogen gas stream to distil out ethanol. Six hours later, the reactants were cooled to room temperature with adding diethylether. The solids produced were filtered and washed with diethylether (yield: 48 g, 82%): 1H NMR (CDCl3) δ10.04 (s, 2H) 8.04 (d, J=9 Hz, 2H) 7.42 (m, 2H) 7.26, (dd, J=2.4, 9 Hz, 2H) 3.74 (s, 2H)

reactant | diethyl malonate | 0.15 mol, 24 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 2,4-dichloro aniline | 60.8 g, 2.5 eq | ClC1=C(N)C=CC(=C1)Cl | C6H5Cl2N
product | N,N′-bis-(2,4-dichloro-phenyl)-malonamide | ClC1=C(C=CC(=C1)Cl)NC(CC(=O)NC1=C(C=C(C=C1)Cl)Cl)=O | C15H10Cl4N2O2
